US05455351
A. 4-Chloromethyl-4-hydroxy-2-isopropyloxazoline
To a solution of isobutyramide (9.876 g, 0.1122 mol) in acetone (130 mL) was added 1,3-dichloroacetone (10.0 g, 0.0748 mol), NaHCO3 (9.429 g, 0.1122 mol), and MgSO4 (18.01 g, 0.1496 mol). The mixture was heated at reflux under argon for 63 hrs, then cooled to room temperature, vacuum filtered, and concentrated in vacuo to a dark brown semi-solid. The residue was purified by SiO2 flash chromatography using a gradient of EtOAc/CH2Cl2 (5%, 10%, 20%, 40%) to obtain the desired product as an orange liquid (6.06 g, 0.0341 mol, 46%): 1H NMR (CDCl3)δ1.20-1.28 (m, 6H), 2.56-2.72 (m, 1H), 3.70 (s, 2H), 4.18 (d, J=9.6 Hz, 1H), 4.38 (d, J=9.6 Hz, 1H). Mass spectrum: (M+H)+ =178, 180.

reactant | isobutyramide | 0.1122 mol, 9.876 g | C(C(C)C)(=O)N | C4H9NO
reactant | 1,3-dichloroacetone | 0.0748 mol, 10.0 g | ClCC(=O)CCl | C3H4Cl2O
reactant | NaHCO3 | 0.1122 mol, 9.429 g | C(=O)(O)[O-].[Na+]
reactant | MgSO4 | 0.1496 mol, 18.01 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | acetone | 130 mL | CC(=O)C | C3H6O
product | 4-Chloromethyl-4-hydroxy-2-isopropyloxazoline | 0.0341 mol, 6.06 g, 46% | ClCC1(N=C(OC1)C(C)C)O | C7H12ClNO2
